US06645971B1
(b) Preparation of 3-[1-(3-Methoxymethylbenzyl)piperidin-4-yl]-4-(4-chlorophenyl)-3,4-dihydro-2(1H)-quinazolinone
In similar way as in Preparation example 11, the title compound was prepared from 3-(piperidin-4-yl)-4-(4-chlorophenyl)-3,4-dihydro-2(1H)-quinazolinone and 3-methoxymethylbenzaldehyde.

reactant | 3-(piperidin-4-yl)-4-(4-chlorophenyl)-3,4-dihydro-2(1H)-quinazolinone | N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=C(C=C1)Cl)=O | C19H20ClN3O
reactant | 3-methoxymethylbenzaldehyde | COCC=1C=C(C=O)C=CC1 | C9H10O2
product | 3-[1-(3-Methoxymethylbenzyl)piperidin-4-yl]-4-(4-chlorophenyl)-3,4-dihydro-2(1H)-quinazolinone | COCC=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=C(C=C2)Cl)=O)C=CC1 | C28H30ClN3O2
